US07078425B2
The crude [(4-phenyl-butylcarbamoyl)-methyl]-carbamic acid tert-butyl ester is stirred in a solution of dioxane (150 mL) and HCl (4 M dioxane, 42 mL, 168 mmol) for 17 h. The volatiles are removed in vacuo to provide 2-amino-N-(4-phenyl-butyl)-acetamide, hydrogen chloride salt which is used as is without further purification.

reactant | [(4-phenyl-butylcarbamoyl)-methyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(NCCCCC1=CC=CC=C1)=O)=O | C17H26N2O3
reactant | HCl | 168 mmol, 4 M, 42 mL | Cl | ClH
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 2-amino-N-(4-phenyl-butyl)-acetamide, hydrogen chloride salt | [Cl-].NCC(=O)NCCCCC1=CC=CC=C1 | InChI=1S/C12H18N2O.ClH/c13-10-12(15)14-9-5-4-8-11-6-2-1-3-7-11;/h1-3,6-7H,4-5,8-10,13H2,(H,14,15);1H/p-1
